US05506219
A solution of 3-(2,2-Dibromoethenyl)-4-(4-fluorophenyl)-2-(1-methylethyl)quinoline (25.2 mmol) in dry THF (140 ml) was cooled to -78° C. and treated with n-BuLi (1.6M in hexane, 33 ml, 52.8 mmol) over a 1 minute period. After stirring at -78° C. for one hour, the dark brown solution was quenched with saturated NH4Cl, warmed to room temperature, diluted with H2O, and extracted with Et2O. The Et2O extract was washed with brine, dried (Na2SO4), filtered and stripped to give a yellow oil. The oil was boiled in hot hexane and cooled (-15° C.) to afford 3-Ethynyl-4-(4-fluorophenyl)-2-(1-methylethyl)-quinoline (5.198 gm) as yellow crystals. The mother liquor was stripped and chromatographed (flash, Merck SiO2, 4% EtOAc in hexane) to afford additional product which was recrystallized from hot hexane. A total of 6.793 gm (93%) of 3-Ethynyl-4-(4-fluorophenyl)-2-(1-methylethyl)quinoline was obtained.

reactant | 3-(2,2-Dibromoethenyl)-4-(4-fluorophenyl)-2-(1-methylethyl)quinoline | 25.2 mmol | BrC(=CC=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)Br | C20H16Br2FN
reactant | n-BuLi | 52.8 mmol, 1.6M, 33 ml | [Li]CCCC
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Ethynyl-4-(4-fluorophenyl)-2-(1-methylethyl)-quinoline | 5.198 gm | C(#C)C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C | C20H16FN
